US05491239
Into an autoclave made of SUS-316 and having an internal capacity of 2 l, 363 g (2.0 mols) of 2-chloro-5-trifluoromethylpyridine, 19.8 g (0.2 mol) of cuprous chloride and 1,275 g (30.0 mols as NH3) of 40% aqueous ammonia were added, and the reaction was carried out at 120° C. for 16 hours under heating with stirring. After completion of the reaction, the reaction mixture was cooled to room temperature and separated into an aqueous ammonia layer and an oil layer, whereby 335 g of an oil containing 1.5% of the starting material 2-chloro-5-trifluoromethylpyridine and 91% of 2-amino-5-trifluoromethylpyridine (as analyzed by liquid chromatography) was obtained.

reactant | 2-chloro-5-trifluoromethylpyridine | 2.0 mols, 2 l, 363 g | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | ammonia | 30.0 mols, 1,275 g | N | H3N
product | 2-amino-5-trifluoromethylpyridine | 91% | NC1=NC=C(C=C1)C(F)(F)F | C6H5F3N2
